US07723368B2
Step 4: 1-(4-(Difluoromethoxy)phenyl)-2-(3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione
To a mixture of dichloropalladium(II)bis(benzonitrile) (575 mg, 1.5 mmol), CuI (571 mg, 3.0 mmol), tributylphosphine (10 wt % solution in hexanes, 197 μL, 0.974 mmol), and 5 mL degassed 1,4-dioxane was added diisopropyl amine (1.82 g, 2.5 mL, 18.0 mmol), and a solution of 1-(3-bromophenyl)-2-(4-(difluoromethoxy)phenyl)ethane-1,2-dione (5.32 g, 15.0 mmol) from the previous step in degassed 1,4-dioxane (10 mL). The reaction mixture was stirred under nitrogen at room temperature. The mixture was diluted with water and extracted with EtOAc three times. The combined organic layers were dried over Na2SO4, filtered, and concentrated onto 20 g Celite. Flash chromatography (SiO2, 1:9 EtOAc:Hexanes to 1:1 EtOAc:Hexanes) provided 3.67 g, 66%, of the title compound as an orange-yellow solid.

reactant | tributylphosphine | 0.974 mmol, 197 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diisopropyl amine | 18.0 mmol, 2.5 mL, 1.82 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-(3-bromophenyl)-2-(4-(difluoromethoxy)phenyl)ethane-1,2-dione | 15.0 mmol, 5.32 g | BrC=1C=C(C=CC1)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O | C15H9BrF2O3
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | CuI | 3.0 mmol, 571 mg | [Cu]I
product | 1-(4-(Difluoromethoxy)phenyl)-2-(3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C#CCCO)=O)F | C19H14F2O4
